Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP ___.

 
History of Present Illness:
Mr. ___ is an ___ man with a history of MI and ___ 
transferred from ___ with worsening abdominal pain, nausea, 
and non-bloody vomiting. He has had mild abdominal pain (worse 
with eating), pruritis, and dark/orange urine over the past 
month. He reported rigors and fevers, but denied pale stools. 
The pain was relieved with vomiting. At ___, a CT 
demonstrated biliary obstruction, laboratory analysis showed 
elevated bilirubin and cholestatic LFTs, and the patient was 
started on ciprofloxacin/flagyl at 5:50am ___. ___ Labs 
at 02:37 - UA wnl, WBC 16, Hgb 13.9 / Hct 40.1, INR 0.94, Cr 
1.13, Trop x1 Neg, Lipase 76, AST 149, ALT 107, Tbili 3.2, Dbili 
1.4.

Mr. ___ was transferred to the ___ ED, where initial VS 
were 98.4 HR: 80 BP: 105/59 Resp: 18 O(2)Sat: 98. Exam was 
notable for non-tender abdomen. Labs showed leukocytosis (15.8), 
normocytic anemia (11.4), abnormal LFTs (ALT 103 AST 123 Alk 
phos 411, TBili 4.0). U/S showed moderately distended 
gallbladder with a thickened and edematous wall and gallbladder 
sludge, but no radiopaque stones. The patient received zosyn and 
2L IVF and was admitted to medicine for further management. He 
was sent for ERCP, during which an 8mm stone and sludge were 
removed and a biliary sphincterotomy was performed.
  
On arrival to the floor, patient reports no abdominal pain since 
vomiting episode at OSH.

 
Past Medical History:
MI ___ years ago s/p stents x7
HTN
HLD
Joint replacement - knees, shoulder, hip
Nephrolithiasis x2
 
Social History:
___
Family History:
CAD - mother and father died in ___ of suspected MI  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.2 PO 136 / 86 Lying 58 16 99 RA   
GENERAL: alert and engaged, not in acute distress  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: negative ___ sign, nondistended, +BS, nontender in 
all quadrants, no rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM
VS 98.7 PO 123 / 65 61 18 100 RA 
GENERAL: alert and engaged, not in acute distress  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: negative ___ sign, nondistended, +BS, nontender in 
all quadrants, no rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
LABS - ADMISSION
___ 10:14AM BLOOD WBC-15.8* RBC-3.76* Hgb-11.4* Hct-34.4* 
MCV-92 MCH-30.3 MCHC-33.1 RDW-14.2 RDWSD-47.8* Plt ___
___ 10:14AM BLOOD Neuts-86.3* Lymphs-3.8* Monos-8.6 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-13.65* AbsLymp-0.60* 
AbsMono-1.36* AbsEos-0.01* AbsBaso-0.03
___ 10:14AM BLOOD Glucose-93 UreaN-22* Creat-0.9 Na-135 
K-3.5 Cl-97 HCO3-24 AnGap-18
___ 10:14AM BLOOD ALT-103* AST-123* AlkPhos-411* 
TotBili-4.0* DirBili-2.7* IndBili-1.3
___ 08:00AM BLOOD Calcium-8.7 Phos-3.3 Mg-2.0
___ 10:14AM BLOOD Albumin-3.5

LABS - DISCHARGE
___ 08:00AM BLOOD WBC-6.8# RBC-3.42* Hgb-10.4* Hct-31.4* 
MCV-92 MCH-30.4 MCHC-33.1 RDW-14.4 RDWSD-48.7* Plt ___
___ 08:00AM BLOOD Glucose-72 UreaN-21* Creat-1.2 Na-139 
K-3.7 Cl-104 HCO3-24 AnGap-15
___ 08:00AM BLOOD ALT-77* AST-79* LD(LDH)-173 AlkPhos-367* 
TotBili-6.2*

MICRO 
none

IMAGING/STUDIES

------
___BDOMEN      Outside Facility REF ONLY     
  
by report showed CBD stone
report not available in ___ system
please contact ___ for this result

------
___ Imaging CR CHEST      Outside Facility REF ONLY   
report unknown
please contact ___ for this result

------
___ Imaging LIVER OR GALLBLADDER US     ___. 
FINDINGS:  
  
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the 
liver is smooth. There is no focal liver mass. The main portal 
vein is patent 
with hepatopetal flow. There is no ascites. 
  
BILE DUCTS: There is no intrahepatic biliary dilation.  The 
common bile duct 
is enlarged, measuring up to 1.2 cm.  The distal CBD is not well 
evaluated due 
to overlying bowel contents. 
  
GALLBLADDER: There is gallbladder sludge with a thickened and 
edematous wall, 
measuring up to 7 mm.  There are no shadowing stones identified. 
 The 
gallbladder is moderately distended 
  
PANCREAS: The imaged portion of the pancreas appears within 
normal limits, 
without masses or pancreatic ductal dilation, with portions of 
the pancreatic 
tail obscured by overlying bowel gas. 
  
KIDNEYS:  Limited views of the right kidney show no 
hydronephrosis. 
  
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal 
limits. 
  
IMPRESSION:  
  
Moderately distended gallbladder with a thickened and edematous 
wall and 
gallbladder sludge.  Recommend clinical correlation for acute 
cholecystitis. 
  
Enlarged CBD, measuring up to 1.2 cm.  The distal CBD is not 
well evaluated 
due to overlying bowel. 

------
ERCP ___ @ ___

Impression: 
•The scout film was normal. 
•The bile duct was deeply cannulated with the sphincterotome. 
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree. 
•A filling defects consistent with a stone was identified in the 
CBD. 
•Opacification of the gallbladder was incomplete. The left and 
right hepatic ducts and all intrahepatic branches were normal.
• A biliary sphincterotomy was made with a sphincterotome. There 
was no post-sphincterotomy bleeding. 
•The biliary tree was swept with a 9-12mm balloon starting at 
the bifurcation. 
•An 8mm stone and sludge were removed. 
•The CBD and CHD were swept repeatedly until no further stones 
were seen. 
•The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD. 
•Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically.
•Otherwise normal ercp to third part of the duodenum

Recommendations: 
•NPO overnight with aggressive IV hydration with LR at 200 cc/hr
•If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated
•Return to ward under ongoing care.
•Continue with antibiotics - Ciprofloxacin 500mg BID x 5 days.
•No aspirin, Plavix, NSAIDS, Coumadin for 5 days.
•Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call ERCP 
fellow on call ___
 
Brief Hospital Course:
Mr. ___ is an ___ with a history of MI and HTN who 
presented with acute worsening abdominal pain, found to have 
choledocolithiasis s/p ERCP on ___, with course complicated 
by new onset atrial fibrillation on ___.

# Choledocolithiasis s/p ERCP
Mr. ___ presented to outside hospital with abdominal pain, 
pruritis, dark/orange urine, elevated bilirubin and alk phos, 
with CT scan showing bile duct dilation. He was given 
cipro/flagyl and transferred to ___ for further management. In 
the ED, his U/S demonstrated CBD dilation to 13mm, thickened 
gallbladder wall, no radiopaque stones, which was consistent 
with CT finding at OSH. He was given zosyn. ERCP was done that 
evening (___) with sphincterotomy and removal of 8mm stone. 
After the procedure, he was put on PO ciprofloxacin 500mg BID x 
5 days. He was initially kept NPO, and diet was advanced the 
following day. He remained afebrile, without nausea, vomiting, 
or abdominal pain. However, labs revealed a worsened bilirubin 
to 6.2 from 4.0, despite improving AST, ALT, and alk phos (77, 
79, 367 from 103, 123, 411). For this reason, it was recommended 
that he have follow up appointment 2 days after discharge to 
repeat LFTs.
[ ] F/u on ___ to repeat LFTs
[ ] Continue PO ciprofloxacin 500 mg BID x 5 days (complete on 
___.
[ ] If any abdominal pain, fever, jaundice, gastrointestinal 
bleeding please call ERCP fellow on call ___

# New onset Atrial fibrillation
The day following his procedure, Mr. ___ had an episode of 
A-fib detected on telemetry. Per the patient, he has no prior 
history of atrial fibrillation or arrhythmia. He was 
asymptomatic at the time and vitals were stable. ECG revealed 
atrial fibrillation at 104 bpm. This was in the setting of acute 
illness as well as holding home medications (atenolol, 
diltiazem). The patient has CHADS2VASC score of 3. He was not 
started on anticoagulation because of recent ERCP (no ASA, 
Plavix, NSAIDS, or Coumadin 5 days post-procedure) and also 
because of new onset in the setting of acute illness. We 
requested that he schedule an appointment with his outpatient 
cardiologist within 1 week of discharge, which he said he would 
be able to do. (His primary cardiologist is in ___, and 
he will be flying to ___ on ___.
[ ] F/u with primary cardiologist within 1 week of discharge.
[ ] Discuss starting anticoagulation 
[ ] Re-start aspirin after 5 days (___)

# HTN
The patient remained normotensive. Anti-hypertensive medications 
(ramipril, atenolol, diltiazem) held post-procedure, restarted 
at discharge.

# CAD s/p PCI: ___ ago
Aspirin was held in setting of recent ERCP. To be restarted on 
___ (after 5 days).
[ ] ___ want to consider statin based on lipid panel and ACC/AHA 
calculator in outpatient setting
[ ] Re-start aspirin on ___.

# GERD: continued famotidine

TRANSITIONAL
- by problem, as above
- contact: ___, ___ / ___
- full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Diltiazem Extended-Release 120 mg PO EVERY OTHER DAY 
4. Ramipril 2.5 mg PO EVERY OTHER DAY 
5. Famotidine 20 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*9 Tablet Refills:*0 
2.  Atenolol 25 mg PO DAILY  
3.  Diltiazem Extended-Release 120 mg PO EVERY OTHER DAY  
4.  Famotidine 20 mg PO DAILY  
5.  Ramipril 2.5 mg PO EVERY OTHER DAY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
- Choledocolithiasis
- Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted because: 
- You had belly pain caused by a stone in your bile duct 
(choledocolithiasis).

While you were here:
- You had a procedure to remove the stone. This procedure was 
successful.
- You had an abnormal heart rhythm that we saw on ECG (atrial 
fibrillation).

When you go home:
- Please follow up with an internal medicine doctor ___ 
below) on ___ to re-check your liver tests. Your 
bilirubin was still elevated, so it is important to follow this 
up.
- Please follow up with your cardiologist within 1 week to 
follow up on your abnormal heart rhythm.
- Please continue taking the ciprofloxacin antibiotic as 
prescribed to finish on ___ (total of 5 days).
- Please DO NOT take your aspirin for 5 days after your 
procedure (start taking after ___.

You do not need to follow up with a stomach doctor 
(___) unless you have recurrent abdominal 
symptoms, such as pain, nausea, vomiting, or diarrhea. 

Your appointments and medications are below.

Sincerely,
Your ___ Medicine Team

 
Followup Instructions:
___